* tb_vco_sweep -- ring VCO tuning curve
*
* 20 ps steps over 600 ns: fine enough for a ~1 GHz edge (50 points/period) and long
* enough to capture four periods at the bottom of the tuning range. A 2 ps step was the
* first attempt and simply wasted an order of magnitude of runtime., WITH the output tap and matched stage loading.
*
* The published 21-957 MHz range was characterised on a bare unloaded ring, which is not a
* configuration that can be shipped: something has to tap the output. This sweep uses the
* real cell, so the numbers can be used for loop design.
*
* The resistor model's body terminal is the global substrate node `sub!`. Unless it is
* declared global AND tied, it floats, the matrix is singular, and ngspice quietly
* abandons its DC strategies and falls back to a transient operating point -- returning
* numbers that look plausible and are not solutions.
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.include /foss/pdks/ihp-sg13cmos5l/libs.ref/sg13cmos5l_stdcell/spice/sg13cmos5l_stdcell.spice
.global sub!
.include ../sim/netlist/rosc_vco.spice

Vdd   vdd   0 1.2
Vss   vss   0 0
Vsub  sub!  0 0
Vctrl vctrl 0 0.6
.ic v(n1)=0

.control
  alter Vctrl dc = 0.4
  tran 20p 600n uic
  echo "VCTRL 0.40"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  alter Vctrl dc = 0.5
  tran 20p 600n uic
  echo "VCTRL 0.50"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  alter Vctrl dc = 0.6
  tran 20p 600n uic
  echo "VCTRL 0.60"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  alter Vctrl dc = 0.7
  tran 20p 600n uic
  echo "VCTRL 0.70"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  alter Vctrl dc = 0.8
  tran 20p 600n uic
  echo "VCTRL 0.80"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  alter Vctrl dc = 0.9
  tran 20p 600n uic
  echo "VCTRL 0.90"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  alter Vctrl dc = 1.0
  tran 20p 600n uic
  echo "VCTRL 1.00"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
  alter Vctrl dc = 1.1
  tran 20p 600n uic
  echo "VCTRL 1.10"
  meas tran per4 TRIG v(n1) VAL=0.6 RISE=3 TARG v(n1) VAL=0.6 RISE=7
  meas tran vhi MAX v(n1) FROM=100n TO=600n
  meas tran vlo MIN v(n1) FROM=100n TO=600n
.endc
.end
